US07687491B2
(7g) 1-{2-[5-(4-Isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-yl}azetidine-3-carboxylic acid 1/2 oxalate
The title compound (13 mg) was synthesized in a yield of 50% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 3 (3e) using ethyl 1-{2-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-yl}azetidine-3-carboxylate (25 mg, 0.056 mmol) that was obtained in Example 7 (7f), a 1N aqueous solution of sodium hydroxide (0.17 ml, 0.17 mmol), and oxalic acid (3 mg, 0.028 mmol).

reactant | ethyl 1-{2-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-yl}azetidine-3-carboxylate | 0.056 mmol, 25 mg | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1OC2=C(C1)C(CCC2)N2CC(C2)C(=O)OCC | C26H31N3O4
reactant | sodium hydroxide | 0.17 mmol, 0.17 ml | [OH-].[Na+]
reactant | oxalic acid | 0.028 mmol, 3 mg | C(C(=O)O)(=O)O | C2H2O4
product | 1-{2-[5-(4-Isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzofuran-4-yl}azetidine-3-carboxylic acid | 13 mg, yield of 50% | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1OC2=C(C1)C(CCC2)N2CC(C2)C(=O)O | C24H27N3O4
